data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc(OC)c1", "products": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc(OC)c1"}, {"reactants": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc(OC)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)cc(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)cc(OC)c1", "products": "COc1cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc(OC)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(F)c1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(F)c1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(F)c1Cl)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(F)c2Cl)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(F)c2Cl)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(F)c2Cl)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(F)c2Cl)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(F)c2Cl)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(F)c2Cl)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cccc(F)c2Cl)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1Cl.[Pd]", "products": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1Cl"}, {"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1Cl", "products": "COc1ccc2c(c1Cl)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1ccc2c(c1Cl)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1ccc2c(c1Cl)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CF)c([Si](C)(C)C)c2F", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)CF)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)CF)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)CF)c([Si](C)(C)C)c4F)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1F.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2F)C(=N)C=C1", "products": "COc1ccc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F"}, {"reactants": "COc1ccc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F", "products": "COc1ccc2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1ccc2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1ccc2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1ccc2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1ccc2c(c1F)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1ccc2c(c1F)C(c1ccccc1)C=[NH+]2", "products": "COc1ccc2[nH]cc(-c3ccccc3)c2c1F.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CCl)c([Si](C)(C)COC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)COC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)COC)cc1=C", "products": "COC[Si](C)(C)c1cc2c(cc1[Si](C)(C)CCl)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(C)C2C(OC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(C)CC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(C)CC1(OC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1(OC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(C)CC1(OC)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(OC)C(Cl)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(OC)C1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(OC)C1(Cl)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1(Cl)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(OC)C1(Cl)CC(C(=O)OC)C(=O)C2"}]}
